US05071468
In analogous manner to that described in Preparation Example 1 Variant A a), 3g of 2-[3-fluoro-2-nitrophenoxy]ethanol were prepared from 5g of 3-fluoro-2-nitrophenol. 1.4g of the alcohol were then reacted with 7ml methyliodide with the addition of 14ml of 50% sodium hydroxide and 0.1g of the phase transfer catalyst, triethylbenzylammonium chloride. The mixture was stirred at room temperature for 2 hours. 20ml of water was then added and the product extracted into 50ml diethyl ether and the ether layer dried using magnesium sulphate. 0.8g (yield of 53%) of 3-fluoro-2-nitrophenyl (2-methoxyethyl) ether were obtained, after the solvent had been removed by evaporation, as an oil which solidified on standing. 0.8g (54% yield) of 5,7-dimethyl-2-(N-[2-fluoro-6-(2-methoxyethoxy)phenyl]-sulphamoyl)-1,2,4-triazolo[1,5-a]pyrimidine (Compound No. 11) were prepared from the ether via the 2-amino derivative in an analogous procedure to that described in Preparation Example 1, Variant A.

reactant | 2-[3-fluoro-2-nitrophenoxy]ethanol | FC=1C(=C(OCCO)C=CC1)[N+](=O)[O-] | C8H8FNO4
reactant | 3-fluoro-2-nitrophenol | FC=1C(=C(C=CC1)O)[N+](=O)[O-] | C6H4FNO3
reactant | methyliodide | 7ml | CI | CH3I
reactant | sodium hydroxide | 14ml | [OH-].[Na+]
catalyst | triethylbenzylammonium chloride | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | water | 20ml | O | H2O
product | 3-fluoro-2-nitrophenyl (2-methoxyethyl) ether | 0.8g, yield of 53% | COCCOC1=C(C(=CC=C1)F)[N+](=O)[O-] | C9H10FNO4
